US08334301B2
tert-butyl ({4-(2-fluorophenyl)-5-[(3-methoxyphenyl)sulfinyl]-2-thienyl}methyl)methylcarbamate
To a solution of tert-butyl ({4-(2-fluorophenyl)-5-[(3-methoxyphenyl)thio]-2-thienyl}methyl)methylcarbamate (277 mg) in ethyl acetate (5 mL) was added 3-chloroperbenzoic acid (144 mg) and the mixture was stirred for 6 hr. The reaction mixture was treated with aqueous sodium thiosulfate solution, and extracted with ethyl acetate. The extract was washed with water, saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=9:1→4:1) to give the title compound as a colorless oil (yield 231 mg, yield 81%).

reactant | tert-butyl ({4-(2-fluorophenyl)-5-[(3-methoxyphenyl)thio]-2-thienyl}methyl)methylcarbamate | 277 mg | FC1=C(C=CC=C1)C=1C=C(SC1SC1=CC(=CC=C1)OC)CN(C(OC(C)(C)C)=O)C | C24H26FNO3S2
reactant | 3-chloroperbenzoic acid | 144 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl ({4-(2-fluorophenyl)-5-[(3-methoxyphenyl)sulfinyl]-2-thienyl}methyl)methylcarbamate | yield 231 mg, yield 81% | FC1=C(C=CC=C1)C=1C=C(SC1S(=O)C1=CC(=CC=C1)OC)CN(C(OC(C)(C)C)=O)C | C24H26FNO4S2
